US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride
Dissolve 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide (1.96 g, 2.71 mmol) in dichloromethane (20 mL). This solution was combined with a saturated solution of hydrochloric acid in dichloromethane (20 mL) and the mixture was stirred for 1 hour. The reaction mixture was evaporated in vacuo and hexane was added. This mixture was evaporated in vacuo and diethyl ether was added. The diethyl ether mixture was evaporated in vacuo to give a solid. The solid was dried in vacuo to give the title compound.

reactant | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide | 2.71 mmol, 1.96 g | CN1CCN(CC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid 4-methylpiperazine-amide hydrochloride | Cl.CN1CCN(CC1)C(=O)N.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C34H38Cl2N2O6.C6H13N3O.ClH/c1-42-28-19-23(20-29(43-2)30(28)44-3)31(39)38-18-12-33(22-38,25-9-10-26(35)27(36)21-25)11-15-37-16-13-34(14-17-37,32(40)41)24-7-5-4-6-8-24;1-8-2-4-9(5-3-8)6(7)10;/h4-10,19-21H,11-18,22H2,1-3H3,(H,40,41);2-5H2,1H3,(H2,7,10);1H
